US05854273
Stage A: Dimethyl phenanthrene-3,4-dicarboxylate
A solution of 65 mmol of 2-vinylnaphthalene and 68 mmol of methyl acetylene-dicarboxylate in 200 ml of nitrobenzene is maintained at reflux for 14 hours. After distillation of the solvent, the reaction medium is chromatographed on silica (eluent: CH2Cl2) in order to obtain the expected product.

reactant | 2-vinylnaphthalene | 65 mmol | C(=C)C1=CC2=CC=CC=C2C=C1 | C12H10
reactant | methyl acetylene-dicarboxylate | 68 mmol | C(#CC(=O)[O-])C(=O)OC
reactant | nitrobenzene | 200 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | Dimethyl phenanthrene-3,4-dicarboxylate | C1=CC(=C(C=2C3=CC=CC=C3C=CC12)C(=O)OC)C(=O)OC | C18H14O4
